US07098226B2
3-(4-Pyridyl)butylamine (Intermediate No. 13-1)
Next, anhydrous ether (8 ml) was added to lithium aluminum hydride (0.16 g, 4.2 mmol) under a nitrogen atmosphere, and the mixture was stirred under ice-cooling. A solution of 3-(4-pyridyl)butyramide (0.22 g, 1.4 mmol) in anhydrous methylene chloride (8 ml) was added dropwise to the mixture over two minutes, the temperature was raised to room temperature, and the whole was stirred overnight. Ethyl acetate (1 ml) and a 1 N aqueous sodium hydroxide solution (20 ml) were added to the reaction mixture, and the whole was extracted with chloroform (50 ml). The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 0.15 g (75%) of the titled compound as a pale yellow oily matter.

reactant | ether | 8 ml | CCOCC | C4H10O
reactant | lithium aluminum hydride | 4.2 mmol, 0.16 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(4-pyridyl)butyramide | 1.4 mmol, 0.22 g | N1=CC=C(C=C1)C(CC(=O)N)C | C9H12N2O
reactant | sodium hydroxide | 1 N, 20 ml | [OH-].[Na+]
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 3-(4-Pyridyl)butylamine | 0.15 g, 75% | N1=CC=C(C=C1)C(CCN)C | C9H14N2
